US09353086B2
6-Chloro-N-(cyclopropylmethyl)-3-methylpyridine-2-carboxamide
6-Chloro-3-methylpyridine-2-carboxylic acid (595 mg, 3.47 mmol), aminomethylcyclopropane (356 μL, 4.16 mmol), EDC.HCl (1.46 g, 7.63 mmol), HOBN (1.54 g, 8.67 mmol) and NEM (1.10 mL, 8.67 mmol) were dissolved in DCM (30 mL) and stirred for 16 h. The reaction mixture was washed with sat aq NaHCO3 (30 mL), 1M aq HCl (30 mL), brine (30 mL), dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography to give the title compound (215 mg, 28%) as a yellow solid. LCMS (ES+): 225.5 [MH]+.

reactant | 6-Chloro-3-methylpyridine-2-carboxylic acid | 3.47 mmol, 595 mg | ClC1=CC=C(C(=N1)C(=O)O)C | C7H6ClNO2
reactant | aminomethylcyclopropane | 4.16 mmol, 356 μL | NCC1CC1 | C4H9N
reactant | EDC.HCl | 7.63 mmol, 1.46 g | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 6-Chloro-N-(cyclopropylmethyl)-3-methylpyridine-2-carboxamide | 215 mg, 28% | ClC1=CC=C(C(=N1)C(=O)NCC1CC1)C | C11H13ClN2O
